US07557111B2
2-{1-[7-(4-Bromo-2,6-dimethyl-phenyl)-2,6-dimethyl-thieno[3,2-d]pyrimidin-4-yl]-piperidin-4-yl}-acetamide
{1-[7-(4-Bromo-2,6-dimethyl-phenyl)-2,6-dimethyl-thieno[3,2-d]pyrimidin-4-yl]-piperidin-4-yl}-acetonitrile hydrochloride (30 mg) was dissolved in c H2SO4 (0.5 mL) and the solution was stirred at room temperature for 20 hours. After addition of ice, the reaction mixture was made to alkaline (pH 7) with an aqueous NaOH solution and an aqueous NaHCO3 solution. The mixture was extracted with EtOAc and the organic layer washed with brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: EtOAc) to obtain the title compound (20 mg) as a white crystal.

reactant | {1-[7-(4-Bromo-2,6-dimethyl-phenyl)-2,6-dimethyl-thieno[3,2-d]pyrimidin-4-yl]-piperidin-4-yl}-acetonitrile hydrochloride | 30 mg | Cl.BrC1=CC(=C(C(=C1)C)C1=C(SC2=C1N=C(N=C2N2CCC(CC2)CC#N)C)C)C
reactant | NaOH | [OH-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2SO4 | 0.5 mL | OS(=O)(=O)O | H2O4S
product | 2-{1-[7-(4-Bromo-2,6-dimethyl-phenyl)-2,6-dimethyl-thieno[3,2-d]pyrimidin-4-yl]-piperidin-4-yl}-acetamide | 20 mg | BrC1=CC(=C(C(=C1)C)C1=C(SC2=C1N=C(N=C2N2CCC(CC2)CC(=O)N)C)C)C | C23H27BrN4OS
